US07687491B2
(2e) 1-({5-[5-(4-Cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methyl)azetidine-3-carboxylic acid
To a solution of ethyl 1-({5-[5-(4-cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methyl)azetidine-3-carboxylate (0.23 g, 0.53 mmol) that was obtained in Example 2 (2d) in a mixed solvent of tetrahydrofuran (0.50 ml), methanol (0.50 ml) and water (0.50 ml) was added lithium hydroxide monohydrate (50 mg, 1.2 mmol) with stirring, and the resulting mixture was stirred at room temperature for 1 hour. After stirring, acetic acid (65 μl, 1.2 mmol) was added to the reaction mixture to quench the reaction. The white solid precipitated was collected by filtration using a Kiriyama funnel, washed with a mixed solvent of water and methanol (3:7) and dried in vacuo to afford the title compound (122 mg) in a yield of 56% as a white crystalline solid.

reactant | ethyl 1-({5-[5-(4-cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methyl)azetidine-3-carboxylate | 0.53 mmol, 0.23 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(O1)CN1CC(C1)C(=O)OCC | C25H29N3O4
reactant | tetrahydrofuran | 0.50 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 1.2 mmol, 50 mg | O.[OH-].[Li+]
reactant | acetic acid | 1.2 mmol, 65 μl | C(C)(=O)O | C2H4O2
solvent | water | 0.50 ml | O | H2O
solvent | methanol | 0.50 ml | CO | CH4O
product | 1-({5-[5-(4-Cyclohexylphenyl)-1,2,4-oxadiazol-3-yl]-2-furyl}methyl)azetidine-3-carboxylic acid | 122 mg, yield of 56% | C1(CCCCC1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(O1)CN1CC(C1)C(=O)O | C23H25N3O4
